US04260512
Preparation of 2-(2-cis-pentenyl)-3-cyanocyclopentanone Reaction
Into a 500 ml reaction flash equipped with mechanical stir, immersion thermometer, water cool bubble condenser, 150 ml addition funnel and heating mantle is placed 10 grams (0.07 moles) of 2-(2-cis-pentenyl)-3-cyclopenten-1-one prepared according to Example B; (0.07 moles); 4.20 grams of glacial acetic acid (0.07 moles) and 245 ml of 95% aqueous ethanol. The reaction mass is heated to 35° C. and, dropwise with stirring while keeping the temperature between 35° and 37° C., 6.86 grams (0.14 moles) of sodium cyanide (dissolved in 75 ml water) is added. After addition, the reaction mass is stirred at a temperature of 35° C. for a period of 3.5 hours.

reactant | water | O | H2O
reactant | 2-(2-cis-pentenyl)-3-cyclopenten-1-one | 0.07 moles, 10 grams | C(=C/CCC)/C1C(CC=C1)=O | C10H14O
reactant | acetic acid | 0.07 moles, 4.20 grams | C(C)(=O)O | C2H4O2
reactant | sodium cyanide | 0.14 moles, 75 ml, 6.86 grams | [C-]#N.[Na+]
solvent | ethanol | 245 ml | C(C)O | C2H6O
product | 2-(2-cis-pentenyl)-3-cyanocyclopentanone | C(=C/CCC)/C1C(CCC1C#N)=O | C11H15NO
